US06313137B1
Synthesis of 8-((2-[2-(benzyloxy)ethyl]-6-methylbenzyl)amino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide
To a solution of 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate 1.4 g (0.0038 mol) in methanol (20 ml) in a nitrogen atmosphere was added zinc chloride (1.0 g, 0.0039 mol) solved in methanol(10 ml) and the mixture was stirred for 30 min. To the mixture were added 2-[2-(benzyloxy)ethyl]-6-methylbenzaldehyde (1.0 g, 0.0039 mol) and sodium cyano borohydride (0.48 g, 0.0076 mol) and the mixture was refluxed overnight. The reation mixture was cooled to room temperature, triethylamine (4 ml) was added, the mixture was stirred for 30 min, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. The residue was solved in diethyl ether, treated with diethyl ether/HCl and the precipitated product as HCl salt was filtered off . The salt was soloved in methylene chloride and washed with saturated sodium carbonate. The organic layer was separated, washed with water, dried and evaporated under reduced pressure to give 0.13 g (7.7 g) of the title compound.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate | 0.0038 mol, 1.4 g | S(C)(=O)(=O)O.NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C
reactant | 2-[2-(benzyloxy)ethyl]-6-methylbenzaldehyde | 0.0039 mol, 1.0 g | C(C1=CC=CC=C1)OCCC1=C(C=O)C(=CC=C1)C | C17H18O2
reactant | sodium cyano borohydride | 0.0076 mol, 0.48 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | zinc chloride | 0.0039 mol, 1.0 g | [Cl-].[Zn+2].[Cl-]
product | 8-((2-[2-(benzyloxy)ethyl]-6-methylbenzyl)amino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 0.13 g | C(C1=CC=CC=C1)OCCC1=C(CNC=2C=3N(C=C(C2)C(=O)N)C(=C(N3)C)C)C(=CC=C1)C | C27H30N4O2
